US05243054
5a) O-methyl (4'-methylbiphenyl-2-yl)carbonylthiocarbamate
In chloroform (40 ml) was dissolved (4'-methylbiphenyl-2-yl)carboxylic acid (10 g). To the solution was added thionyl chloride (7 ml), and the mixture was heated for 3 hours under reflux. The reaction mixture was poured into ice-water, then the organic layer was separated, washed with water and concentrated to dryness to give a syrup, which was dissolved in dioxane (80 ml). To the solution was added powdered potassium thiocyanate (9.16 g), and the mixture was heated for one hour under reflux. The reaction mixture was allowed to cool, and then insolubles were filtered off. After addition of methanol (15 ml) to the filtrate, the solution was heated for 15 minutes under reflux. The reaction solution was concentrated to dryness, and the resulting crystals were crystallized from isopropyl ether to afford the title compound as white plates (7.4 g, 55%),

reactant | (4'-methylbiphenyl-2-yl)carboxylic acid | 10 g | CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)O | C14H12O2
reactant | thionyl chloride | 7 ml | S(=O)(Cl)Cl | Cl2OS
reactant | potassium thiocyanate | 9.16 g | [S-]C#N.[K+]
reactant | dioxane | 80 ml | O1CCOCC1 | C4H8O2
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | O-methyl (4'-methylbiphenyl-2-yl)carbonylthiocarbamate | CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)NC(OC)=S | C16H15NO2S
